US04933350
Ethyl phenylpropiolate (10.1 g, 0.058 mol) was added with stirring to a solution of 1-amino-3-isopropyloxazolo[4,3-a]isoquinolinium tetrafluoroborate (9.1 g) in acetonitrile (90 ml) at 50° C. The solution was then heated at reflux for 30 minutes and it was then evaporated in vacuo to give a viscous orange-brown oil, which was extracted with hot petroleum ether (b.p. 60°-80° C.)(4×100 ml). The petroleum extract was evaporated in vacuo and the residue was subjected to flash chromatography on silica gel using as eluent a mixture of petroleum ether (b.p. 40°-60° C.) and diethyl ether (19:1 v/v), giving an oil, which crystallised on standing, to give ethyl 3-isopropyl-1-phenylpyrrolo-[ 2,1-a]isoquinoline-2-carboxylate (1.7 g), in the form of a colourless solid, m.p. 82°-84° C. [N.M.R. (in CDCl3): 0.88 (3H, t, J=7 Hz), 1.52 (6H, d, J=7 Hz), 4.01 (2H, q, J=7 Hz), 4.14 (1H, septet, J=7 Hz), 6.75 (1H, d, J=8 Hz), 7.00-7.50 (9H, m), and 7.85 (1H, d, J=8 Hz)].

reactant | Ethyl phenylpropiolate | 0.058 mol, 10.1 g | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
reactant | 1-amino-3-isopropyloxazolo[4,3-a]isoquinolinium tetrafluoroborate | 9.1 g | F[B-](F)(F)F.NC=1OC(=[N+]2C1C1=CC=CC=C1C=C2)C(C)C
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | ethyl 3-isopropyl-1-phenylpyrrolo-[ 2,1-a]isoquinoline-2-carboxylate | 1.7 g | C(C)(C)C1=C(C(=C2N1C=CC1=CC=CC=C21)C2=CC=CC=C2)C(=O)OCC | C24H23NO2
